US09120805B2
A suspension of 93.7 mg (0.655 mmol) 4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester (synthesis described in J. Leroy et al. Tetrahedron 58, p. 6713, 2002) and 640 mg (1.96 mmol) cesium carbonate in 1.3 ml DMF is heated to 50° C. under stirring. 167 mg (0.655 mmol) 2-bromo-1-(4-tert-butyl-phenyl)ethanone is added and the reaction mixture is stirred for 18 hours at 50° C. The reaction mixture is filtered with suction and the filtrate is evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester as brown amorphous solid; HPLC/MS 3.26 min (B), [M+H] 318.

reactant | 4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester | 0.655 mmol, 93.7 mg | COC(=O)C=1NC=C(C1)F | C6H6FNO2
reactant | cesium carbonate | 1.96 mmol, 640 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-(4-tert-butyl-phenyl)ethanone | 0.655 mmol, 167 mg | BrCC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)F)CC(=O)C1=CC=C(C=C1)C(C)(C)C | C18H20FNO3
